US03953604
A solution of sodium hydroxide (0.6 g) in ethanol was added to 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane (6.28 g) and the mixture was heated under reflux for 1 hour. The resulting sodium salt was filtered, dissolved in the minimum volume of hot water and poured into a solution of acetic acid (100 ml, 2N). The solution was cooled, the precipitated acid was filtered, washed with cold water and dried. Recrystallization from dilute acetic acid gave 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane (6.0 g) as white needles, m.p. 193°-195° C.

reactant | sodium hydroxide | 0.6 g | [OH-].[Na+]
reactant | 1-(2-carbethoxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane | 6.28 g | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)Cl)O | C21H19ClO7
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-carboxychromon-5-yloxy)-2-hydroxy-3-p-chlorophenoxypropane | 6.0 g | C(=O)(O)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)Cl)O | C19H15ClO7
